US06919365B2
3-Naphthylcarbonyl-1,3-diazaspiro[4.5]decane-2,4-dione (Compound 34)
5,5-Pentamethylenehydantoin (2.00 g) was dissolved in tetrahydrofuran (10 mL), and sodium hydride (60%, in oil) (0.49 g) was added at 0° C. under ice-cooling. After stirred for 30 minutes, 1-naphthoyl chloride (2.33 g) was added at 0° C., and the mixture was stirred at room temperature overnight. After the solvent was distilled off, ethyl acetate (100 mL) was added to the reaction solution, and the solution was washed with 1N hydrochloric acid, an aqueous saturated sodium bicarbonate solution and a saturated brine in turn. After drying over anhydrous magnesium sulfate, the solvent was distilled off to obtain the white solid. Further recrystallization with IPE and ethyl acetate afforded 1.87 g of white crystals.

reactant | 5,5-Pentamethylenehydantoin | 2.00 g | C1CCC2(CC1)C(=O)NC(=O)N2 | C8H12N2O2
reactant | sodium hydride | 0.49 g | [H-].[Na+]
reactant | 1-naphthoyl chloride | 2.33 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-Naphthylcarbonyl-1,3-diazaspiro[4.5]decane-2,4-dione | 1.87 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1C(NC2(C1=O)CCCCC2)=O | C19H18N2O3
